US06069156
Methyl 1-(2-chlorobenzyl)-2-isobutyl-3-isobutyrylindole -6-carboxylate (258 mg) was prepared from methyl 2-isobutyl-3-isobutyrylindole-6-carboxylate (210 mg) and 2-chlorobenzyl bromide (157 mg) in a similar manner to that of Example 1.

reactant | methyl 2-isobutyl-3-isobutyrylindole-6-carboxylate | 210 mg | C(C(C)C)C=1NC2=CC(=CC=C2C1C(C(C)C)=O)C(=O)OC | C18H23NO3
reactant | 2-chlorobenzyl bromide | 157 mg | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | Methyl 1-(2-chlorobenzyl)-2-isobutyl-3-isobutyrylindole -6-carboxylate | 258 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)OC)C(C(C)C)=O)CC(C)C)C=CC=C1 | C25H28ClNO3
